US07345056B2
3-Chloro-12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene MS (ES) m/e 372. (M+H)
Prepared by chlorination of 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene using N-chlorosuccinimide.

reactant | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CCC2 | C15H16ClN3O2S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 3-Chloro-12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC=1C=2C3CCCC(CC2NN1)N3S(=O)(=O)C3=CC=C(C=C3)Cl | C15H15Cl2N3O2S
